US03994974
In 100 ml. of methanol there was dissolved 2.3 g. of 4-benzyloxy-3-benzyloxyacetylamino-α-(N-benzyl-N-isopropylaminomethyl)benzyl alcohol and after adding to the solution 4.3 ml. of 1N hydrogen chloride in ethanol solution and then 0.3 g. of 10% palladium carbon, the catalytic reduction was conducted at normal temperature and pressure. When 300 ml. of hydrogen was absorbed, the reaction was stopped. Thereafter, the catalyst was filtered off and then the solvent was distilled off under reduced pressure to provide a white crystalline material. By crystallizing the crystals from methanol-n-hexane, 600 mg. of 4-hydroxy-3-hydroxyacetylamino-α-(isopropylaminomethyl)benzyl alcohol hydrochloride melting at 188°-190° C was obtained.

reactant | methanol | CO | CH4O
reactant | 4-benzyloxy-3-benzyloxyacetylamino-α-(N-benzyl-N-isopropylaminomethyl)benzyl alcohol | C(C1=CC=CC=C1)OC1=C(C=C(C(CN(C(C)C)CC2=CC=CC=C2)O)C=C1)NC(COCC1=CC=CC=C1)=O | C34H38N2O4
reactant | hydrogen chloride | 1N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | [C].[Pd]
product | 4-hydroxy-3-hydroxyacetylamino-α-(isopropylaminomethyl)benzyl alcohol hydrochloride | Cl.OC1=C(C=C(C(CNC(C)C)O)C=C1)NC(CO)=O | InChI=1S/C13H20N2O4.ClH/c1-8(2)14-6-12(18)9-3-4-11(17)10(5-9)15-13(19)7-16;/h3-5,8,12,14,16-18H,6-7H2,1-2H3,(H,15,19);1H
